US08278482B2
3-Azido-N,N-diethyl-3-methylbutanamide
To a stirred ice cold solution of 3-azido-3-methylbutanoyl chloride (8.00 g, 49.5 mmol) in anhydrous DCE (160 mL) was added diethylamine (15.4 mL, 3 equiv, 0.148 mol) in one portion. The reaction was left to stir at 0° C. for 1 h. Water (200 mL) was added to the reaction mixture and the contents poured into a separatory funnel. The organic layer was separated and washed with water (3×100 mL) and brine (100 mL). It was dried over anhydrous MgSO4, filtered, concentrated and dried under high vacuum to give a crude oil (9.80 g, quant). This material was used without further purification.

reactant | 3-azido-3-methylbutanoyl chloride | 49.5 mmol, 8.00 g | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
reactant | diethylamine | 0.148 mol, 15.4 mL, 3 equiv | C(C)NCC | C4H11N
reactant | Water | 200 mL | O | H2O
solvent | DCE | 160 mL | ClCCCl | C2H4Cl2
product | 3-Azido-N,N-diethyl-3-methylbutanamide | N(=[N+]=[N-])C(CC(=O)N(CC)CC)(C)C | C9H18N4O
